US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(2-thienyl)thiazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)thiazole. The yield was 79%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 76-77° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(2-thienyl)thiazole | ClCC=1N=C(SC1)C=1SC=CC1 | C8H6ClNS2
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(2-thienyl)thiazole | yield was 79% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(SC2)C=2SC=CC2)C=C1 | C20H19N3OS2
